US07465731B2
To a solution of ethyl (2E)-3-(4-bromophenyl)acrylate (300 mg) in toluene (3 mL) was added palladium(II) acetate (26.4 mg), (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (110 mg), cesium carbonate (583 mg), and (3R)-1-(4-chlorobenzoyl)-3-pyrrolidinamine (291 mg). The mixture was heated at 90° C. for 2 days. The resulting mixture was poured into sat.NH4Cl aq solution and extracted with AcOEt. The organic layer was washed with sat. NH4Cl aq solution, water, and brine, and dried over Na2SO4. The solvent was removed in vacuo and residual brown oil was purified by preparative thin layer chromatography (chloroform:methanol 95:5) to give ethyl (2E)-3-(4-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}phenyl)acrylate (297 mg) as pale yellow form.

reactant | ethyl (2E)-3-(4-bromophenyl)acrylate | 300 mg | BrC1=CC=C(C=C1)/C=C/C(=O)OCC | C11H11BrO2
reactant | (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 110 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | cesium carbonate | 583 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (3R)-1-(4-chlorobenzoyl)-3-pyrrolidinamine | 291 mg | ClC1=CC=C(C(=O)N2C[C@@H](CC2)N)C=C1 | C11H13ClN2O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 26.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl (2E)-3-(4-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}phenyl)acrylate | 297 mg | ClC1=CC=C(C(=O)N2C[C@@H](CC2)NC2=CC=C(C=C2)/C=C/C(=O)OCC)C=C1 | C22H23ClN2O3
